US04147780
27.5 parts of DL-1-amino-2-methylpropanephosphonous acid in 100 parts of water was stirred until solution occurred. The pH of the solution was adjusted to 9.5 with 4N sodium hydroxide and the mixture cooled to 0°. 34 Parts of benzyl chloroformate was added over 1 hour and the mixture stirred for 6 hours maintaining at pH 9.0-9.5 by periodic addition of 4N sodium hydroxide. The mixture was allowed to warm up to room temperature and then washed with ether. The aqueous portion was added slowly to a mixture of 120 parts of water and 80 parts of concentrated hydrochloric acid and 400 parts of ice. The solid which was obtained was dried and recrystallised from ethyl acetate/petroleum ether to give DL-1-carbobenzyloxyamino-2-methylpropanephosphonous acid, melting point 108°-111°.

reactant | 1-amino-2-methylpropanephosphonous acid | NC(C(C)C)P(O)O | C4H12NO2P
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | O | H2O
product | 1-carbobenzyloxyamino-2-methylpropanephosphonous acid | C(=O)(OCC1=CC=CC=C1)NC(C(C)C)P(O)O | C12H18NO4P
